US07674802B2
4-{(S)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-butyric acid methyl ester:
The title compound was prepared from product from 3-chloro-2-[4-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole (0.33 g, 0.94 mmol) and methyl 4-bromobutyrate (0.25 g, 1.4 mmol) using the procedure of Step 1 of the Example 17 to provide the title compound (0.30 g, 75%).

reactant | 3-chloro-2-[4-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole | 0.94 mmol, 0.33 g | ClC=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)OC[C@H]1NCCC1 | C18H18ClN3O
reactant | methyl 4-bromobutyrate | 1.4 mmol, 0.25 g | BrCCCC(=O)OC | C5H9BrO2
product | 4-{(S)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-butyric acid methyl ester | 0.30 g, 75% | COC(CCCN1[C@@H](CCC1)COC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1Cl)=O | C23H26ClN3O3
